US05278308
2-Hydroxy-2-ethynyI-3-(2-methylpropyl)-9,10-dimethoxy -1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine (3).
Trimethylsilylacetylene (2 eqs.; 20.4 mmol; 2.88 mL) was dissolved in 80 mL of dry THF and stirred under a nitrogen atmosphere at -5° to 0° C. n-Butyl lithium (20.4 mmol, 12.72 mL) was added dropwise with stirring followed by dropwise addition of a solution of 3-isobutyl-9-,10-dimethoxy-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizin-2-one (TBZ) in 30 mL dry THF. The reaction mixture was stirred at -5° to 0° C. for 1 h, allowed to warm slowly to 20° C., and stirred for 2 h at 20° C. The reaction was quenched while cold with saturated NH4Cl. The solvent was evaporated under reduced pressure and the resulting aqueous solution was extracted with ethyl acetate (3×100 mL). The organic phase was washed with water (2×50 mL) and brine (50 mL) and concentrated. The residue was dissolved in 30 mL MeOH and 5 mL 5N KOH, and heated to 65° C. with stirring for 30 min. The reaction was cooled and quenched with NH4Cl. The methanol was evaporated and the aqueous phase extracted with ethyl acetate (3×75 mL). The organic phase was washed with water (50 mL) and brine (50 mL), dried over Na2SO4, and concentrated to yield the product (53.7%) as slightly brown solid.

reactant | Trimethylsilylacetylene | 20.4 mmol, 2.88 mL | C[Si](C)(C)C#C | C5H10Si
reactant | n-Butyl lithium | 20.4 mmol, 12.72 mL | C(CCC)[Li]
reactant | 3-isobutyl-9-,10-dimethoxy-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizin-2-one | C(C(C)C)C1CN2CCC3=C(C2CC1=O)C=C(C(=C3)OC)OC | C19H27NO3
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-Hydroxy-2-ethynyI-3-(2-methylpropyl)-9,10-dimethoxy -1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine | 53.7% | OC1(C(CN2CCC3=C(C2C1)C=C(C(=C3)OC)OC)CC(C)C)C#C | C21H29NO3
